US20010027196A1
6-Furan-2-yl-N4-methyl-5-nitro-pyrimidine-2,4-diamine
From trifluoromethanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester and methylamine inDME. ES-MS mie(%): 236 (M+H+, 100).

reactant | trifluoromethanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C=1OC=CC1 | C9H5F3N4O6S
reactant | methylamine | CN | CH5N
product | 6-Furan-2-yl-N4-methyl-5-nitro-pyrimidine-2,4-diamine | O1C(=CC=C1)C1=C(C(=NC(=N1)N)NC)[N+](=O)[O-] | C9H9N5O3
